US07468371B2
3-(prop-2-ynyloxy)pyridine
To a mixture of 3-hydroxypyridine (5.0 g, 52 mmol) and potassium hydroxide (8.8 g, 158 mmol) in N,N-dimethylformamide (30 mL) was added propargyl bromide (7.5 g, 63 mmol) dropwise at about 5-10 C and the mixture was stirred at room temperature for about 15 min. The reaction was quenched by addition of water and the product was extracted with dichloromethane. The combined organic extracts were washed with water and then stirred with activated charcoal for 30 min. The mixture was filtered through Celite and the filtrate was concentrated under vacuum to provide Example 638. 1H NMR (300 MHz, CDCl3): δ 2.57 (t, J=3.0 Hz, 1H), 4.77 (d, J=3.0 Hz, 2H), 7.30 (m, 2H), 8.27 (dd, J=3.0, 7.6 Hz, 1H), 8.40 (d, J=3.0 Hz, 1H).

reactant | 3-hydroxypyridine | 52 mmol, 5.0 g | OC=1C=NC=CC1 | C5H5NO
reactant | potassium hydroxide | 158 mmol, 8.8 g | [OH-].[K+]
reactant | propargyl bromide | 63 mmol, 7.5 g | C(C#C)Br | C3H3Br
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 3-(prop-2-ynyloxy)pyridine | C(C#C)OC=1C=NC=CC1 | C8H7NO
